US07408064B2
3-Ethoxycarbonyl-9-isopropyl-9H-pyrido[3,4-b]indole
Potassium bis-(trimethylsilyl)amide (5.48 g, 27.5 mmol) was added portionwise over 5 minutes under an atmosphere of argon to a stirred solution of 3-ethoxycarbonyl-9H-pyrido[3,4-b]indole (6 g, 25 mmol) in THF (60 ml) at 0° C. After 1 hour, 2-bromopropane (19 ml, 0.2 mol) was added dropwise over 10 minutes at room temperature and the reaction mixture was then heated to 60° C. for 18 hours. The mixture was concentrated in vacuo and the residue was dissolved in EtOAc. The solution was washed with water and then brine. The organic phase was separated, dried, filtered and concentrated in vacuo. The crude product was purified by flash eluting over a gradient of 0-70% EtOAc in isohexane. The product was obtained as a yellow solid (2.91 g) after evaporation of the appropriate fractions. NMR (300 MHz) 9.21 (s, 1H), 8.92 (s, 1H), 8.41 (d, 1H), 7.86 (d, 1H), 7.62 (t, 1H), 7.33 (t, 1H), 5.28 (m, 1H), 4.37 (q, 2H), 1.69 (d, 6H), 1.37 (t, 3H); m/z 283.5.

reactant | Potassium bis-(trimethylsilyl)amide | 27.5 mmol, 5.48 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-ethoxycarbonyl-9H-pyrido[3,4-b]indole | 25 mmol, 6 g | C(C)OC(=O)C1=CC2=C(NC3=CC=CC=C23)C=N1 | C14H12N2O2
reactant | 2-bromopropane | 0.2 mol, 19 ml | BrC(C)C | C3H7Br
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 3-Ethoxycarbonyl-9-isopropyl-9H-pyrido[3,4-b]indole | 2.91 g | C(C)OC(=O)C1=CC2=C(N(C3=CC=CC=C23)C(C)C)C=N1 | C17H18N2O2
